US06841549B1
(1) N-(6-Methoxy-3-pyridyl)-N-(3-nitro-2-pyridyl)amine
A solution of 15 g of 2-chloro-3-nitropyridine, 11.7 g of 5-amino-2-methoxypyridine and 26.1 g of potassium carbonate in 150 mL dimethylformamide was stirred at room temperature for 4 hours and 25 minutes and further stirred at 70° C. for 3 hours and 10 minutes. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted once with ethyl acetate. The organic layer was washed 3 times with a saturated aqueous ammonium chloride solution and once with brine, and dried over sodium sulfate. The residue was purified crudely by short-column chromatography. From and the resulting black brown oil was extracted with diethyl ether to give 9.10 g of the title compound as reddish brown crystals (39% y.). (2) N2-(6-Methoxy-3-pyrdyl)-2,3-pyridinediamine

reactant | 2-chloro-3-nitropyridine | 15 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 5-amino-2-methoxypyridine | 11.7 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | potassium carbonate | 26.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(6-Methoxy-3-pyridyl)-N-(3-nitro-2-pyridyl)amine | 9.10 g, 39% | COC1=CC=C(C=N1)NC1=NC=CC=C1[N+](=O)[O-] | C11H10N4O3
